US07371869B2
Amino-(3-fluoro-4-methoxy-phenyl)-acetic acid (2.0 g, 10.04 mmol) was dissolved in p-dioxane (24 mL) and 0.5 M aqueous sodium hydroxide solution (22 mL, 11 mmol) added while cooling in an ice bath. To this solution was added di-tert-butyidicarbonate (2.653 g, 12 mmol) and the mixture stirred at 0° C. for 30 minutes then at ambient temperature for 1 hour. The mixture was concentrated to remove dioxane and adjusted to pH=3 with 3 M aqueous potassium hydrogen sulfate solution while cooling in an ice bath. The reaction mixture was extracted with ethyl acetate (3×) and the organics were dried over sodium sulfate, filtered and concentrated to give a brown viscous oil. Crystallization of the oil in ether/hexanes gave tert-butoxycarbonylamino-(3-fluoro-4-methoxy-phenyl)-acetic acid (2.19 g, 73%).

reactant | Amino-(3-fluoro-4-methoxy-phenyl)-acetic acid | 10.04 mmol, 2.0 g | NC(C(=O)O)C1=CC(=C(C=C1)OC)F | C9H10FNO3
reactant | sodium hydroxide | 11 mmol, 0.5 M, 22 mL | [OH-].[Na+]
reactant | di-tert-butyidicarbonate | 12 mmol, 2.653 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | p-dioxane | 24 mL | O1CCOCC1 | C4H8O2
product | tert-butoxycarbonylamino-(3-fluoro-4-methoxy-phenyl)-acetic acid | 2.19 g, 73% | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC(=C(C=C1)OC)F | C14H18FNO5
